US04344954
2,3,5,6,7,8-Hexahydro-2,3-diphenylthiazolo[3,2-a][1,3]-diazepin-3-ol
A 10 g. portion of 2,3,5,6,7,8-hexahydro-2,3-diphenylthiazolo[3,2-a][1,3]diazepin-3-ol hydrobromide is dissolved with stirring in 300 ml. of 50% methanol. A 10 ml. portion of 5N sodium hydroxide is added, 200 ml. of water are added and after standing, the mixture is chilled. The solid is collected, washed with water and dried, giving 8.42 g. of the desired product, m.p. 100°-103° C.

reactant | 2,3,5,6,7,8-hexahydro-2,3-diphenylthiazolo[3,2-a][1,3]diazepin-3-ol hydrobromide | Br.C1(=CC=CC=C1)C1C(N2C(=NCCCC2)S1)(O)C1=CC=CC=C1
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | water | O | H2O
product | 2,3,5,6,7,8-Hexahydro-2,3-diphenylthiazolo[3,2-a][1,3]-diazepin-3-ol | C1(=CC=CC=C1)C1C(N2C(=NCCCC2)S1)(O)C1=CC=CC=C1 | C19H20N2OS
